US09359329B2
A mixture of 0.97 g (3.9 mmol) of N-tert-butyl-6-chloropyridine-3-sulfonamide, 2.43 mL (39 mmol) of methyl iodide and 5.4 g (39 mmol) of K2CO3 in 40 mL of acetone is refluxed for 12 hours. The reaction medium is filtered at room temperature, and the filtrate is concentrated under reduced pressure. The residue obtained is purified on silica gel, eluting with a cyclohexane/EtOAc gradient of from 0 to 20% EtOAc, to give 0.66 g of N-tert-butyl-6-chloro-N-methylpyridine-3-sulfonamide in the form of a yellow solid.

reactant | N-tert-butyl-6-chloropyridine-3-sulfonamide | 3.9 mmol, 0.97 g | C(C)(C)(C)NS(=O)(=O)C=1C=NC(=CC1)Cl | C9H13ClN2O2S
reactant | methyl iodide | 39 mmol, 2.43 mL | CI | CH3I
reactant | K2CO3 | 39 mmol, 5.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | N-tert-butyl-6-chloro-N-methylpyridine-3-sulfonamide | 0.66 g, Yield=65% | C(C)(C)(C)N(S(=O)(=O)C=1C=NC(=CC1)Cl)C | C10H15ClN2O2S
